US07294650B2
iv) 7-Bromothiochromane
A solution of 7-bromo-2,3-dihydro-4H-thiochromen-4-one (1 g) in trifluoroacetic acid (12 ml) was treated with triethylsilane (1.48 ml) and the mixture was stirred at reflux for 4 h. Water was added and the mixture extracted with ethyl acetate. The organic solution was washed with brine, dried (Na2SO4) and evaporated. The residue was purified by chromatography on a Biotage cartridge (40 g) eluting with petrol-diethyl ether (10:1) to give the title compound (946 mg). LCMS RT=3.71 min

reactant | 7-bromo-2,3-dihydro-4H-thiochromen-4-one | 1 g | BrC1=CC=C2C(CCSC2=C1)=O | C9H7BrOS
reactant | triethylsilane | 1.48 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | Water | O | H2O
solvent | trifluoroacetic acid | 12 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-Bromothiochromane | 946 mg | BrC1=CC=C2CCCSC2=C1 | C9H9BrS
